*****************************************************************
* NXP BUK7Y4R4-40E
*
* Polarity N-Channel
* Ratings 40V/4.400000E-003OHMS/100A
*
* Date Created Tue Feb 05 09:55:32 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y4R4-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 4000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00206848979010163 TC=0.00409990711919895,2.13332076642411E-05
RBD 9 4 0.000968738577072814 TC=0.00409990711919895,2.13332076642411E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.8021264202786e-09
RG 1 2 1.83255376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1951.51
+ -16	1950.21
+ -10	1946.37
+ -5	1924.7
+ -4	1906.38
+ -3	1834.24
+ -2	1561.38
+ -1	1291.35
+ -0.5	1136.8
+ -0.2	1040.43
+ -0.1	1037.81
+ 0	965.94612
+ 0.1	811.61312
+ 0.2	810.683
+ 0.5	641.73104
+ 1	519.90116
+ 2	433.56952
+ 3	391.56024
+ 4	364.843
+ 5	345.91536
+ 6	331.50084
+ 8	311.451
+ 10	298.2264
+ 12	288.58208
+ 15	277.59524
+ 20	263.64828
+ 25	252.88528
+ 30	244.58816
+ 35	236.29104



.MODEL MINT NMOS(Vto=4.1 Kp=1.607154e+002 Nfs=920000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=4.9406085758993e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.77539456e-09 Tt=1.2864e-08)

.ENDS

